US04456757
In 100 ml of ethanol was dissolved 2.0 g of N-[2-(N-methyl-N-benzylamino)ethyl]-5-isoquinolinesulfonamide, i.e., Compound (65) as obtained in Example 16, and to the solution was added 0.2 g of 10% palladium-carbon. Then the solution was vigorously stirred at a temperature of 20° C. to 25° C. in a hydrogen stream of 2.0 to 2.5 atm. for 5 hours. After the palladium-carbon was separated from the reaction solution by filtration, the reaction solution was concentrated to dryness to give 0.95 g of N-(2-methylaminoethyl)-5-isoquinolinesulfonamide, i.e., Compound (14) in a yield of 64%.

reactant | N-[2-(N-methyl-N-benzylamino)ethyl]-5-isoquinolinesulfonamide | 2.0 g | CN(CC1=CC=CC=C1)CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C19H21N3O2S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | N-(2-methylaminoethyl)-5-isoquinolinesulfonamide | 0.95 g, yield of 64% | CNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C12H15N3O2S
